US08802679B2
6-[4-(tert-Butoxycarbonyl)piperazin-1-yl]nicotinic acid (934 mg) was dissolved in dioxane (12 ml), and 4 M hydrogen chloride/dioxane (7 ml) was added thereto, followed by stirring at room temperature overnight. The precipitated solid was collected by filtration to obtain 6-piperazin-1-yl nicotinic acid dihydrochloride (850 mg).

reactant | 6-[4-(tert-Butoxycarbonyl)piperazin-1-yl]nicotinic acid | 934 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C15H21N3O4
reactant | hydrogen chloride dioxane | 4 M, 7 ml | Cl.O1CCOCC1
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 6-piperazin-1-yl nicotinic acid dihydrochloride | 850 mg | Cl.Cl.N1(CCNCC1)C1=NC=C(C(=O)O)C=C1 | InChI=1S/C10H13N3O2.2ClH/c14-10(15)8-1-2-9(12-7-8)13-5-3-11-4-6-13;;/h1-2,7,11H,3-6H2,(H,14,15);2*1H
